US07109225B2
d] 2,2-Dimethyl-N-(1-propionyl-but-3-enyl)-propionamide
4.27 g of the above synthesized 2-(2,2-dimethyl-propionylamino)-pent-4-enoic acid (21.43 mmol) were dissolved in 13.5 ml of pyridine, treated with 132.81 ml of propionic anhydride (5 eq.), and heated to 100° for 15 h. After cooling, 10.04 ml of water were added and the mixture kept for 45 Min. at 90°. Careful pouring onto crashed ice/HCl, twofold extraction with AcOEt, washing twice with Na2CO3 and water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (silica gel, hexane/AcOEt=8/2) left finally 2.10 g of the title compound as yellowish oil.

reactant | 2-(2,2-dimethyl-propionylamino)-pent-4-enoic acid | 21.43 mmol | CC(C(=O)NC(C(=O)O)CC=C)(C)C | C10H17NO3
reactant | propionic anhydride | 132.81 ml, 5 eq. | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | 10.04 ml | O | H2O
solvent | pyridine | 13.5 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethyl-N-(1-propionyl-but-3-enyl)-propionamide | CC(C(=O)NC(CC=C)C(CC)=O)(C)C | C12H21NO2
